US06900215B2
A solution of 3-[4-fluoro-3-(6-methoxypyridin-3-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine (30 mg, 0.077 mmol) in 1,4-dioxane (2 ml) was treated with a 1M solution of boron tribromide in dichloromethane (0.77 ml, 0.77 mmol) and heated at reflux for 72 h. The mixture was partitioned between dichloromethane and water and the aqueous layer adjusted to pH 7. The organic layer was separated, washed with brine, dried (MgSO4), and concentrated in vacuo. 5-[2-Fluoro-5-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)phenyl]pyridin-2-ol was obtained in 31% yield after purification on silica gel: δH (400 MHz, DMSO) 6.46 (1H, d, J 9), 7.48-7.55 (2H, m), 7.72 (1H, ddd, J 8, 5 and 2), 7.76-7.82 (1H, m), 7.90 (1H, dd, J 8 and 2), 8.30 (1H, s), 9.35 (1H, d, J 7), 11.97 (1H, br); m/z (ES+) 375 (M++H).

reactant | 3-[4-fluoro-3-(6-methoxypyridin-3-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | 0.077 mmol, 30 mg | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C=2C=NC(=CC2)OC | C19H12F4N4O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 0.77 mmol, 0.77 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 5-[2-Fluoro-5-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)phenyl]pyridin-2-ol | 31% yield | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C=2C=CC(=NC2)O | C18H10F4N4O
